data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]C(=O)C1=CC=C(C=C1)[N+](=O)[O-].CCOC(=O)N[N-:10]C(=O)OCC.CC(CCCCN1C(=O)C2=C(N=CN2CC3=CC=CC=C3)N(C1=O)C)O[P+](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6.CN1CC(CC1=O)O[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C1=CC(=CC=C1C(=O)[O-:21])[N+](=O)[O-].CC(CCCCN1C(=O)C2=C(N=CN2CC3=CC=CC=C3)N(C1=O)C)O[P+](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6.CN1CC(CC1=O)O[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4 10=20;20,21=21
CC(CO)(C[O:10][CH:20](C1=CC=CC=C1)[OH2+:21])C(=O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(CO)(C[O+:10]=[CH:20]C1=CC=CC=C1)C(=O)O.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O+:21](CC)C(C)(C)Br.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C)(C)Br 10=20;20,21=21
[H:20][O:21]CC#C.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C#CC[O-:21] 10=20;20,21=21
CO[PH+:22]([O:21][CH3:20])I.[I-:10]>>CO[PH:22](=[O:21])I.[CH3:20][I:10] 10=20;20,21=21,22
C[CH+:20][O:10][Sn-](Cl)(Cl)(Cl)Cl>>C[CH:20]=[O+:10][Sn-](Cl)(Cl)(Cl)Cl 10=20,
[H:20][C:21]#CC1=CC=CC=C1.C[O:10][K]>>[H:20][O+:10](C)[K].[C-:21]#CC1=CC=CC=C1 10=20;20,21=21
[H:20][CH:21]1[C:22](=[C:23]2C(=C3C=CC=CC3=C([C:24]2=[O+:25]1)OC)C)CCC(=O)OCC.[OH2:10].C(F)(F)(F)S(=O)(=O)[O-]>>[H:20][OH2+:10].CCOC(=O)CC[C:22]1=[CH:21][O:25][C:24]2=[C:23]1C(=C3C=CC=CC3=C2OC)C.C(F)(F)(F)S(=O)(=O)[O-] 10=20;24,25=25;20,21=21,22;22,23=23,24
C[O:11][Si-:10](C)(C)(C)[O+](C)C>>C[O-:11].C[O+](C)[Si:10](C)(C)C 10,11=11
[H:20][C:21]12C3C(CCCN3C(=O)CCl)(CC[C:22]1=[NH+:23]C4=C2C=CC=C4)CC.C(=O)(C(F)(F)F)[O-:10].O>>[H:20][O:10]C(=O)C(F)(F)F.CCC12CCCN(C1[C:21]3=[C:22](CC2)[NH:23]C4=C3C=CC=C4)C(=O)CCl.O 10=20;22,23=23;20,21=21,22
CC[NH2:10].CCO[C:20](=[O:21])CCC(=O)NC>>CC[NH2+:10][C:20](CCC(=O)NC)([O-:21])OCC 10=20;20,21=21
CC(C)[C:20](=[O:21])OC1=CC=CC=C1.[OH-:10]>>CC(C)[C:20]([OH:10])([O-:21])OC1=CC=CC=C1 10=20;20,21=21
C[O:10][CH:20]=[OH+:21]>>C[O+:10]=[CH:20][OH:21] 10=20;20,21=21
[H:20][N+:21](=C(C)C1=C(C=CC=C1)O)CCO.[OH-:10].C(CO)N>>[H:20][OH:10].CC(=[N:21]CCO)C1=C(C=CC=C1)O.C(CO)N 10=20;20,21=21
C[C:20](=[O:21])OC(=O)C[O-:10]>>C[C:20]1([O:10]CC(=O)O1)[O-:21] 10=20;20,21=21
C[C:10]1=[C:11](C(C2=CC(=C(C=C2C1)C)OC)CC[CH:20]=[N+:21](C)C)[O-:12]>>CC1=C(C=C2C3CC[CH:20]([C:10]([C:11]3=[O:12])(CC2=C1)C)[N:21](C)C)OC 10,11=10,20;20,21=21;12=11
CC[CH-:10][N+](=O)[O-].[Br:20][Br:21]>>CC[CH:10]([N+](=O)[O-])[Br:20].[Br-:21] 10=20;20,21=21
COC(=O)[C+:20](C1=CC=CC=C1)[Cu].C1=CC2=C(C=C1)[NH:10]C3=C2C=CC=C3>>COC(=O)[C:20](C1=CC=CC=C1)([NH+:10]2C3=C(C=CC=C3)C4=C2C=CC=C4)[Cu] 10=20,
CC(C)O[C:20](=[O:21])CC1C2=C(CC[N:12]1[C:11]3=[CH:10]CCC3)C=C(C=C2)OC.C(=O)(C(F)(F)F)O.O>>CC(C)O[C:20]1(CC2C3=C(CC[N+:12]2=[C:11]4[CH:10]1CCC4)C=C(C=C3)OC)[O-:21].C(=O)(C(F)(F)F)O.O 10,11=10,20;20,21=21;12=11
C[O:10][CH2:20][Br:21]>>C[O+:10]=[CH2:20].[Br-:21] 10=20;20,21=21
CC(=O)C1=CC2=C(C=C[CH:11]=[CH:10]2)C=C1.[Br:20][Br:21]>>CC(=O)C1=CC2=C(C=C[CH+:11][CH:10]2[Br:20])C=C1.[Br-:21] 10,11=10,20;20,21=21
[BH3:20].C[P:10](C)C>>[BH3-:20][P+:10](C)(C)C 10=20,
[B:20](Br)(Br)Br.CCCC1=CC=C(C=C1)[O:10]C>>[B-:20]([O+:10](C)C1=CC=C(C=C1)CCC)(Br)(Br)Br 10=20,
[H:20][NH2+:21]O.CC(NO)[O-:10]>>[H:20][O:10]C(C)NO.[NH2:21]O 10=20;20,21=21
[H:21][C:20]1([CH2:19][CH2:18][C:16]2([CH:15]1[CH2:14][CH2:13][CH:12]3[C:10]2([CH2:9][CH2:8][CH:7]4[C:5]3([CH2:4][CH2:3][CH:2]([C:30]4([CH3:31])[CH3:32])[OH:1])[CH3:6])[CH3:11])[CH3:17])[C+:22]([CH3:23])[CH2:24][CH2:25][CH:26]=[C:27]([CH3:28])[CH3:29]>>[H:21][C:22]([CH3:23])([CH2:24][CH2:25][CH:26]=[C:27]([CH3:28])[CH3:29])[C+:20]1[CH2:19][CH2:18][C:16]2([CH:15]1[CH2:14][CH2:13][CH:12]3[C:10]2([CH2:9][CH2:8][CH:7]4[C:5]3([CH2:4][CH2:3][CH:2]([C:30]4([CH3:31])[CH3:32])[OH:1])[CH3:6])[CH3:11])[CH3:17] 20,21=21,22
[H:20][CH2:21][CH:22](C1=CC=CC=C1)[Br:23].CC[O-:10]>>[H:20][O:10]CC.[CH2:21]=[CH:22]C1=CC=CC=C1.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)C(F)(F)F.CC1C=C(OC1(C2=CC=CC=C2)[OH:10])C.CC1=CC=CC=C1>>[H:20][OH+:10]C1(C(C=C(O1)C)C)C2=CC=CC=C2.C(F)(F)(F)S(=O)(=O)[O-:21].CC1=CC=CC=C1 10=20;20,21=21
[H:20][C:21]1(CCCC([CH:22]1[Cl:23])C)CC.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CC[C:21]1=[CH:22]C(CCC1)C.[Cl-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=CC(=O)[O-])CC1=CC=CC=C1.[NH2-:10]>>[H:20][NH2:10].C1=CC=C(C=C1)CC(=CC(=O)[O-])[O-:21] 10=20;20,21=21
C[OH+:21][C:20](O)([OH:10])OC>>C[OH:21].CO[C:20](=[OH+:10])O 10=20;20,21=21
CCO[C:20](=[O:21])C.[CH2-:10]C#N>>CCO[C:20](C)([CH2:10]C#N)[O-:21] 10=20;20,21=21
CC(C)CC(C(=O)NC1CCCC1)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C)CC(C(=O)NC1CCCC1)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
CCCC1CC(C[CH:20](C1OC(=[O:10])C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)CC(C)C>>CCCC1CC(C[CH:20]2C1OC(=[O+:10]2)C)CC(C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC1=C(C(=O)N2CCC(=[O:10])C2=C1)C#N.C(CO)O>>[H:20][O+:10]=C1CCN2C1=CC(=C(C2=O)C#N)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C(CO)O 10=20;20,21=21
C1=C[N:23]=[CH:22][CH:21]=[C:20]1Cl.[OH-:10]>>C1=C[N-:23][CH:22]=[CH:21][C:20]1([OH:10])Cl 10=20;22,23=23;20,21=21,22
